US07223788B2
tert-Butyl (R)-[1-(5-{[4-(4-Chlorophenyl)piperidin-1-carbonyl]amino}pyridin-2-yl)pyrrolidin-3yl]methylcarbamate
The synthetic sequence for preparing tert-butyl (R)-[1-(4-{[4-(4-chlorophenyl)piperidin-1-carbonyl]amino}phenyl)pyrrolidin-3-yl]methylcarbamate was carried out starting from 2-chloro-5-nitropyridine instead of 4-fluoronitrobenzene. This resulted in the product with the molecular weight of 514.07 (C27H36ClN5O3); MS (ESI): 514 (M+H+).

reactant | tert-butyl (R)-[1-(4-{[4-(4-chlorophenyl)piperidin-1-carbonyl]amino}phenyl)pyrrolidin-3-yl]methylcarbamate | ClC1=CC=C(C=C1)C1CCN(CC1)C(=O)NC1=CC=C(C=C1)N1C[C@H](CC1)CNC(OC(C)(C)C)=O | C28H37ClN4O3
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
product | tert-Butyl (R)-[1-(5-{[4-(4-Chlorophenyl)piperidin-1-carbonyl]amino}pyridin-2-yl)pyrrolidin-3yl]methylcarbamate | ClC1=CC=C(C=C1)C1CCN(CC1)C(=O)NC=1C=CC(=NC1)N1C[C@H](CC1)CNC(OC(C)(C)C)=O | C27H36ClN5O3
